US05804686
4-Nitro-(2-Hydroxyethoxy)benzene (1.13 g, 6.2 mmol) in thionyl chloride (10 mL) is heated at reflux for 3 hours then concentrated in vacuo. After cooling the residue in an ice water bath, saturated aqueous sodium bicarbonate is added and the precipitate collected, rinsed with water, and dried to give 4-nitro-(2-chloroethoxy)benzene (909 mg).

reactant | 4-Nitro-(2-Hydroxyethoxy)benzene | 6.2 mmol, 1.13 g | [N+](=O)([O-])C1=CC=C(C=C1)OCCO | C8H9NO4
reactant | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-nitro-(2-chloroethoxy)benzene | 909 mg | [N+](=O)([O-])C1=CC=C(C=C1)OCCCl | C8H8ClNO3
